### PR TITLE
[Merged by Bors] - feat: golfing Imo2008Q4

### PR DESCRIPTION
**Pull request by kim-em**
No strong opinions on this one, just interesting to see what `grind` can already handle.

### CODE REVIEW

File: Archive/Imo/Imo2008Q4.lean [hunk 1]
```diff
@@ -45,23 +45,18 @@ theorem imo2008_q4 (f : ℝ → ℝ) (H₁ : ∀ x > 0, f x > 0) :
     · intro w x y z hw hx hy hz hprod
       rw [h w hw, h x hx, h (y ^ 2) (pow_pos hy 2), h (z ^ 2) (pow_pos hz 2)]
       field_simp
-      linear_combination - (z ^ 2 + y ^ 2) * (w ^ 2 + x ^ 2) * (w * x + y * z) * hprod
+      grind
   -- proof that the only solutions are f(x) = x or f(x) = 1/x
   intro H₂
-  have h₀ : f 1 ≠ 0 := by specialize H₁ 1 zero_lt_one; exact ne_of_gt H₁
+  have h₀ : f 1 ≠ 0 := by specialize H₁ 1 zero_lt_one; grind
```
Comment (themathqueen) [inline Archive/Imo/Imo2008Q4.lean]: I think this is all fine, except for this one. I think this should just be:
```suggestion
  have h₀ : f 1 ≠ 0 := ne_of_gt (H₁ 1 zero_lt_one)
```

File: Archive/Imo/Imo2008Q4.lean [hunk 2]
```diff
@@ -78,16 +73,11 @@ theorem imo2008_q4 (f : ℝ → ℝ) (H₁ : ∀ x > 0, f x > 0) :
...
+    grind [abs_of_pos]
   -- f(ab) = 1/ab → a^4 = 1 → a = 1 → f(a) = 1/a → false
-  · have hb_ne_0 : b ≠ 0 := ne_of_gt hb
-    simp [field, hab₂] at H₂
-    have H₃ : 2 * b ^ 4 * (a ^ 4 - 1) = 0 := by linear_combination 2 * b ^ 2 * H₂
-    have h2b4_ne_0 : 2 * b ^ 4 ≠ 0 := mul_ne_zero two_ne_zero (pow_ne_zero 4 hb_ne_0)
-    have ha₁ : a ^ 4 = 1 := by simpa [sub_eq_zero, h2b4_ne_0, hb_ne_0] using H₃
-    obtain ha₂ := abs_eq_one_of_pow_eq_one a 4 (show 4 ≠ 0 by simp) ha₁
-    rw [abs_of_pos ha] at ha₂; rw [ha₂] at hfa₁; norm_num at hfa₁; contradiction
+  · simp [field, hab₂] at H₂
```
Comment (themathqueen) [inline Archive/Imo/Imo2008Q4.lean]: maybe squeeze this `simp`?

File: Archive/Imo/Imo2008Q4.lean [hunk 3]
```diff
@@ -45,23 +45,18 @@ theorem imo2008_q4 (f : ℝ → ℝ) (H₁ : ∀ x > 0, f x > 0) :
     · intro w x y z hw hx hy hz hprod
       rw [h w hw, h x hx, h (y ^ 2) (pow_pos hy 2), h (z ^ 2) (pow_pos hz 2)]
       field_simp
-      linear_combination - (z ^ 2 + y ^ 2) * (w ^ 2 + x ^ 2) * (w * x + y * z) * hprod
+      grind
   -- proof that the only solutions are f(x) = x or f(x) = 1/x
   intro H₂
-  have h₀ : f 1 ≠ 0 := by specialize H₁ 1 zero_lt_one; exact ne_of_gt H₁
+  have h₀ : f 1 ≠ 0 := ne_of_gt (H₁ 1 zero_lt_one)
```
Comment (grunweg) [inline Archive/Imo/Imo2008Q4.lean]: Does this work?
```suggestion
  have h₀ : f 1 ≠ 0 := (H₁ 1 zero_lt_one).ne
```

**Review by grunweg — COMMENTED** [review]
I think these are generally improvements.
maintainer delegate

**Comment by grunweg** [comment]
CI may be falling because you need to merge master?

File: Archive/Imo/Imo2008Q4.lean [hunk 4]
```diff
@@ -45,23 +45,18 @@ theorem imo2008_q4 (f : ℝ → ℝ) (H₁ : ∀ x > 0, f x > 0) :
     · intro w x y z hw hx hy hz hprod
       rw [h w hw, h x hx, h (y ^ 2) (pow_pos hy 2), h (z ^ 2) (pow_pos hz 2)]
       field_simp
-      linear_combination - (z ^ 2 + y ^ 2) * (w ^ 2 + x ^ 2) * (w * x + y * z) * hprod
```
Comment (eric-wieser) [inline Archive/Imo/Imo2008Q4.lean:48]: My guess is that we want to keep this one, but the rest of the golfs see uncontroversial

File: Archive/Imo/Imo2008Q4.lean (hunk 3 above)
Comment (themathqueen) [reply Archive/Imo/Imo2008Q4.lean]: I don't think that would work, but this should:
```suggestion
  have h₀ : f 1 ≠ 0 := (H₁ 1 zero_lt_one).ne.symm
```

Comment (grunweg) [reply Archive/Imo/Imo2008Q4.lean]: Fair. How about this one?
```suggestion
  have h₀ : f 1 ≠ 0 := (H₁ 1 zero_lt_one).ne'
```

Comment (themathqueen) [reply Archive/Imo/Imo2008Q4.lean]: ye, that should work!

File: Archive/Imo/Imo2008Q4.lean (hunk 4 above)
Comment (kim-em) [reply Archive/Imo/Imo2008Q4.lean:48]: How about replacing it with `grobner`?

Comment (kim-em) [reply Archive/Imo/Imo2008Q4.lean:48]: (I removed `awaiting-author` as I think this is the correct solution.)

Comment (eric-wieser) [reply Archive/Imo/Imo2008Q4.lean:48]: `grobner` is certainly better, but I'd like to see what @hrmacbeth thinks.

File: Archive/Imo/Imo2008Q4.lean [hunk 5]
```diff
@@ -45,23 +45,18 @@ theorem imo2008_q4 (f : ℝ → ℝ) (H₁ : ∀ x > 0, f x > 0) :
...
+      grobner
```
Comment (kim-em) [inline Archive/Imo/Imo2008Q4.lean]:
```suggestion
      linear_combination - (z ^ 2 + y ^ 2) * (w ^ 2 + x ^ 2) * (w * x + y * z) * hprod
```

File: Archive/Imo/Imo2008Q4.lean (hunk 4 above)
Comment (kim-em) [reply Archive/Imo/Imo2008Q4.lean:48]: We're increasingly skeptical of providing a stand alone `grobner` tactic interface to `grind`, so I'll just change this back to `linear_combination`.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
